US04186131
EXAMPLE 48. 1-(tert.-Butylamino)-3-[(1-phenyl-5-tetrazolyl)-oxy]-2-propanol Hydrochloride.
2,3-Epoxy-1-[(1-phenyl-5-tetrazolyl)-oxy]propane (43.7 g., 0.20 mole) was heated at the reflux temperature in 150 ml. of tert.-butylamine and 300 ml. of benzene for 9 hours. The solvents were evaporated in vacuo and the residual oil was dissolved in 100 ml. of EtOH and acidified with ethanolic HCl. Dilution with diethyl ether gave 44.8 g. of the hydrochloride of the product, m.p. 73°-82°. Recrystallization from i-PrOH-IPE gave 30.8 g., m.p. 152.5°-154.5° (corr.).

reactant | 2,3-Epoxy-1-[(1-phenyl-5-tetrazolyl)-oxy]propane | 0.20 mole, 43.7 g | O1C(COC2=NN=NN2C2=CC=CC=C2)C1 | C10H10N4O2
reactant | tert.-butylamine | C(C)(C)(C)N | C4H11N
reactant | hydrochloride | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(tert.-Butylamino)-3-[(1-phenyl-5-tetrazolyl)-oxy]-2-propanol Hydrochloride | Cl.C(C)(C)(C)NCC(COC1=NN=NN1C1=CC=CC=C1)O | InChI=1S/C14H21N5O2.ClH/c1-14(2,3)15-9-12(20)10-21-13-16-17-18-19(13)11-7-5-4-6-8-11;/h4-8,12,15,20H,9-10H2,1-3H3;1H
